US07414052B2
A mixture of (2RS,3RS)-toluene-4-sulfonic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester (0.185 g, 0.4 mmol), 1-methyl piperazine (0.05 mL, 0.4 mmol) and potassium carbonate (0.07 g, 0.44 mmol) in acetonitrile (10 mL) was stirred at reflux under nitrogen for 24 hours. After cooling, the mixture was filtered and the filtrate was concentrated and purified via Biotage chromatography (5% methanol/dichloromethane) to give a white solid of (1RS,2SR)-1-(1H-indol-1-yl)-3-(4-methylpiperazin-1-yl)-1-phenylpropan-2-ol. The free base was dissolved in a minimum amount of ethanol and treated with a 1N ethereal solution of hydrochloric acid until the solution was pH=3 followed by diethyl ether. The product was then crystallized by adding a minimum amount of hexane to afford the titled compound, (1RS,2SR)-1-(1H-indol-1-yl)-3-(4-methylpiperazin-1-yl)-1-phenylpropan-2-ol dihydrochloride as an off-white solid. MS m/z 350 ([M+H]+); HRMS: calcd for C22H27N30+H+, 350.22269; found (ESI, [M+H]+), 350.2228.

reactant | (2RS,3RS)-toluene-4-sulfonic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester | 0.4 mmol, 0.185 g | OC(COS(=O)(=O)C1=CC=C(C=C1)C)C(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C24H23NO4S
reactant | 1-methyl piperazine | 0.4 mmol, 0.05 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 0.44 mmol, 0.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (1RS,2SR)-1-(1H-indol-1-yl)-3-(4-methylpiperazin-1-yl)-1-phenylpropan-2-ol | N1(C=CC2=CC=CC=C12)C(C(CN1CCN(CC1)C)O)C1=CC=CC=C1 | C22H27N3O
